US04863958
A solution of 2-(p-carboethoxymethoxybenzyl)-3-methyl-4-acetoxy-5-propyl-7-chlorobenzofuran (133 mg; 0.28 mmole) in methanol (10 mL) and 10N sodium hydroxide (1 mL) was stirred at room temperature for a period of 30 minutes. Water was then added and the mixture was acidified with 6N hydrochloric acid. The solid was filtered, washed with water, and air-dried to yield 93 mg (82%) of 2-(p-carboxymethoxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran, mp. 179°-180° C.

reactant | 2-(p-carboethoxymethoxybenzyl)-3-methyl-4-acetoxy-5-propyl-7-chlorobenzofuran | 0.28 mmole, 133 mg | C(=O)(OCC)COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3Cl)CCC)OC(C)=O)C=C1 | C25H27ClO6
reactant | Water | O | H2O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | sodium hydroxide | 10N, 1 mL | [OH-].[Na+]
product | 2-(p-carboxymethoxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran | 93 mg, 82% | C(=O)(O)COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3Cl)CCC)O)C=C1 | C21H21ClO5
